Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ year old right handed man with past medical
history of hyperlipidemia whom presents as transfer from 
___ with dizziness and for evaluation of posterior
circulation stroke. 

Patient reports that he was at baseline yesterday, but acutely 
at
about 10 in the evening developed dizziness.  Patient defines
dizziness as the world spinning around himself.  Patient
initially felt that the dizziness was secondary to alcohol
consumption as he had a couple of glasses of wine.  Patient
reports that he decided to go to bed, but admits that it was 
very
difficult because of incoordination.  Patient denies veering to
one side preferentially with walking and felt that he was
bobbling to both sides.  Patient had to use furniture as support
to ambulate to his bed. 

Patient woke up this morning and the dizziness continued.  He
felt he could not open his eyes because of the dizziness.  He
notes that there was no difference in appreciation of dizziness
with laying down or standing up.  Patient also with nausea and
vomiting.  Based on this, his wife called EMS and he was taken 
to
___.  ___ and CTA head and neck were negative.

Patient when visited in ED was with continued symptoms, but
perhaps a bit improved with fluids and anti nausea treatment.
Patient endorsed continued dizziness with laying down and with
sitting up.  He does endorse that it is worse with sitting up. 

Patient added that he had a similar event a few weeks ago.  He
woke up in the morning and had the same dizziness he experienced
today, but it was much less severe and only lasted a few hours. 
He reports that these symptoms might have occurred in setting of
not eating and they seemed to have resolved after drinking 
orange
juice. 

Patient denies recent infection and denies change in hearing or
appreciation of tinnitus.  Patient denies headache and when his
neck is palpated he denies pain. 

On neurologic ROS, the patient denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
HTN
HLD
 
Social History:
___
Family History:
Patient denies family history of strokes.  His mother died of
emphysema and father of prostate cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive, able to name ___ backward without difficulty. 
Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Pt was able to name
both high and low frequency objects.  Able to read without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Pt was able to register 3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

Cranial Nerves:
No visual field cuts.  PERRL.  There is a non extinguishing
nystagmus on primary gaze with the fast phase to the left and
slow phase to the right.  With end gaze to the right there is no
nystagmus, but with end gaze to the left there is a non
extinguishing nystagmus with fast phase to left and slow phase 
to
right.  Cover, uncover is without skew.  HITS is without
corrective saccade.  Patient would not tolerate ___
maneuver. Facial sensation and musculature is symmetric.  
Hearing
intact.  Uvula midline with symmetric rise of palate.  SCM ___. 
Tongue protrudes to midline with forceful lateral excursions. 

Motor: 
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5     5   
R  5    ___   ___    5    5     5    5   

Sensory: 
No deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. Romberg
absent. 

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
There are no appendicular cerebellar signs: FNF and HTS without
dysmetria, no rebound with outstretched arms, taping of the 
thumb
joint line is accurate. However, when patient sits up and closes
eyes he veers to the right and will fall to the right if allowed
to.  I tested this three times with the same result.

Gait: 
Patient will not tolerate safely standing up, therefore 
deferred.

DISCHARGE PHYSICAL EXAM
==========================
Vitals: Temp: 98.0 PO BP: 166/76 HR: 72 RR: 16 O2 sat: 92% O2 
delivery: RA 
General: no acute distress, pleasant and conversant
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: no cyanosis, clubbing, or edema
Skin: no rashes or lesions noted
 
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

Cranial Nerves:
No visual field cuts.  PERRL.  Left beating nystagmus on primary
and left gaze, more pronounced on left gaze. Cover, uncover is
without skew.  HITS with right corrective saccade. Facial
sensation and musculature is symmetric.  Hearing intact.  Uvula
midline with symmetric rise of palate.  SCM ___.  Tongue
protrudes to midline with forceful lateral excursions. 

Motor: 
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5    5     5   
R  5    ___   ___    5    5    5     5   

Sensory: 
No deficits to light touch, pinprick, cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. Romberg
absent. 

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

Coordination: 
Past-pointing FNF bilaterally, no rebound with outstretched 
arms.

Gait: 
Wide based and unsteady. Cannot walk unassisted.
 
Pertinent Results:
ADMISSION LABS
=================
___ 06:17PM BLOOD WBC-13.2* RBC-4.46* Hgb-13.7 Hct-40.5 
MCV-91 MCH-30.7 MCHC-33.8 RDW-11.9 RDWSD-39.6 Plt ___
___ 06:17PM BLOOD Neuts-83.3* Lymphs-10.8* Monos-5.2 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-10.99* AbsLymp-1.43 
AbsMono-0.69 AbsEos-0.01* AbsBaso-0.02
___ 06:17PM BLOOD Plt ___
___ 06:17PM BLOOD ___ PTT-27.3 ___
___ 06:17PM BLOOD Glucose-119* UreaN-12 Creat-1.0 Na-143 
K-4.3 Cl-106 HCO3-22 AnGap-15
___ 06:17PM BLOOD ALT-41* AST-36 AlkPhos-65 TotBili-0.5
___ 06:17PM BLOOD Albumin-4.1 Calcium-9.1 Phos-2.5* Mg-2.0
___ 06:17PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING
==========
MR HEAD W/O CONTRAST Study Date of ___ 
FINDINGS: 
A subtle rounded 1.9 x 1.2 cm extra-axial CSF intensity focus 
with remodeling of the adjacent inner table overlying the right 
frontal lobe (series 9, image 22); series 10, image 22) is felt 
to be compatible with an arachnoid cyst.  Otherwise, there is no 
evidence of hemorrhage, edema, masses, mass effect, midline 
shift or infarction.   The ventricles and sulci are within 
expected limits for the degree of mild senescent related global 
cerebral volume loss.

Subcortical foci of intermediate intensity FLAIR signal without 
concurrent 
restricted diffusion are nonspecific, but commonly seen in the 
setting of 
chronic microangiopathic disease.  The major intracranial flow 
voids are 
preserved.  There is mild mucosal thickening of the ethmoid air 
cells.  The orbits are unremarkable.  No significant fluid 
signal is seen in the mastoid air cells.  No suspicious osseous 
signal. 
IMPRESSION:
1. No evidence of subacute or acute infarction.  No intracranial 
hemorrhage. 
2. Likely left frontal arachnoid cyst. 
3. Nonspecific T2/FLAIR white matter hyperintensities, commonly 
seen in 
setting chronic microangiopathy in a patient this age. 

TTE ___
IMPRESSION: Suboptimal image quality. Mild LVH with normal LV 
systolic function.

DISCHARGE LABS
===============
___ 04:40AM BLOOD WBC-11.4* RBC-4.13* Hgb-13.2* Hct-39.5* 
MCV-96 MCH-32.0 MCHC-33.4 RDW-12.1 RDWSD-42.5 Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:40AM BLOOD Glucose-88 UreaN-13 Creat-1.1 Na-143 
K-4.3 Cl-104 HCO3-26 AnGap-13
___ 04:40AM BLOOD Calcium-9.1 Phos-3.2 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old right handed man with past medical 
history of hyperlipidemia who presented as transfer from 
___ with dizziness and for evaluation of posterior 
circulation stroke. He was ruled out for acute stroke and was 
found to have vestibular neuritis.

#Vestibular neuritis:
Presented with dizziness at home described as "room spinning", 
inability to walk without support from surrounding furniture. 
Symptoms began in the evening but persisted on waking, prompting 
wife to call EMS. Taken to ___, where ___ and 
CTA head and neck were negative. Transferred to ___ because 
symptoms were persistent despite supportive care with 
antiemetics and fluids, and there was no Neurologist in 
___. At ___, initial exam was notable for primary gaze 
and left end gaze nystagmus with slow phase to the right and 
when patient sitting and eyes closed reproducibly veering to the 
right. No appendicular cerebellar signs. HITS without corrective 
saccade. MRI was normal. On repeat exam, he continued to have 
unidirectional nystagmus on left and primary gaze, corrective 
saccade on HITS testing, past-pointing on finger-to-nose 
testing, and wide-based unsteady gait. Etiology appears most 
consistent with peripheral etiology, particularly vestibular 
neuritis given nausea, vomiting, exacerbation with movement, and 
unidirectional nystagmus. ___ have had a preceding viral illness 
that catalyzed this. Overall, patient improved throughout his 
hospitalization, however remained persistently unsteady with 
ambulation. He was discharged to rehab. Stroke risk factors were 
checked and notable for LDL: 77, HBA1c: 5.8. His home dose of 
atorvastatin was unknown and he was discharged with 20 mg daily.

#HTN:
Does not report taking antihypertensives at home. BP 
140-160/70-80. Initiated amlodipine 5 mg daily. 

#HLD:
Does not know home atorvastatin dose, LDL as above, discharged 
on 20 mg daily.

TRANSITIONAL ISSUES:
=====================
[] A1c 5.8, prediabetic range, encourage lifestyle modification 
counseling, initiation of metformin
[] discharged with atorvastatin 20 mg daily, home dose unknown
[] initiated amlodipine 5 mg for HTN, please continue to titrate
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY   
2.  Atorvastatin 20 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Vestibular neuritis 
Hypertension
Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.

You were admitted for symptoms of vertigo (room spinning), 
unsteadiness and nausea/vomiting due to a condition called 
"vestibular neuronitis". This is a condition characterized by 
irritation and inflammation of the nerves in your ear that help 
control your sense of balance and position. You had an MRI of 
your brain brain to look for stroke as a potential cause of your 
symptoms but this was negative. You will improve from your 
condition over time.

Please continue to take your medications as prescribed and 
follow-up with your doctors as ___.

We wish you all the best,
Your ___ team
 
Followup Instructions:
___